US06235771B1
In toluene/ethanol/water (10/1/1.2 ml) was dissolved methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (750 mg), and to the solution were added 5-chloro-2-thienyl borate (736 mg) and potassium carbonate (1.0 g). The mixture was stirred at room temperature for 30 minutes, and to the mixture was added tetrakistriphenylphosphinepalladium (210 mg). The mixture was stirred at 100° C. for 15 hours, cooled to room temperature, extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=3/1) to give methyl 7-(5-chloro-2-thienyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (350 mg).

reactant | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 750 mg | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
reactant | 5-chloro-2-thienyl borate | 736 mg | B(OC=1SC(=CC1)Cl)([O-])[O-]
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 1.2 ml | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakistriphenylphosphinepalladium | 210 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 7-(5-chloro-2-thienyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 350 mg | ClC1=CC=C(S1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C16H13ClO4S2
